US07943669B2
Step B: {4-[3-(4-Fluoro-phenylethynyl)-5-(4-methanesulfonyl-benzyloxy)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid
{4-[3-(4-Fluoro-phenylethynyl)-5-(4-methanesulfonyl-benzyloxy)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester (270 mg; 0.46 mmol) was dissolved in ethanol (15 mL), and aqueous 1 N sodium hydroxide (3 mL) was added. The reaction mixture was stirred for 16 h. acidified with 1 N aqueous hydrochloric acid and extracted with ethyl acetate. The organic phase was dried, evaporated to dryness and purified by prep HPLC (method B). Yield: 113 mg (85%). HPLC-MS: m/z: 599.4 (M+Na); Rt: 2.50 min.

reactant | {4-[3-(4-Fluoro-phenylethynyl)-5-(4-methanesulfonyl-benzyloxy)-phenylsulfanyl]-2-methyl-phenoxy}-acetic acid ethyl ester | 0.46 mmol, 270 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OCC1=CC=C(C=C1)S(=O)(=O)C)C#CC1=CC=C(C=C1)F)C)=O | C33H29FO6S2
reactant | sodium hydroxide | 1 N, 3 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | {4-[3-(4-Fluoro-phenylethynyl)-5-(4-methanesulfonyl-benzyloxy)-phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid | FC1=CC=C(C=C1)C#CC=1C=C(C=C(C1)OCC1=CC=C(C=C1)S(=O)(=O)C)SC1=CC(=C(OCC(=O)O)C=C1)C | C31H25FO6S2
